US05795900
Preparation of 4,4-bis(4-(2-quinolylmethoxy)phenyl)pentanoic acid sodium salt
To a solution in dioxane (10 mL) and methanol (10 mL) of 4,4-bis (4-(2-quinolylmethoxy)phenyl)pentanoic acid (320 mg, 0.56 mmol), prepared as in step 1, was added aqueous 1N sodium hydroxide (0.55 ml, 0.55 mmol). The mixture was then concentrated in vacuo. The product was crystallized by dissolving in CH2Cl2 and precipitation by dropwise addition of a mixture of ethyl acetate-ethyl ether (1:2): 1H NMR (300 MHz, DMSO--d6) d 1.47 (s, 3H), 1.63 (m, 2H), 2.18 (m, 2H), 5.31 (s, 4H), 6.95 (d, 4H, J=9 Hz), 7.08 (d, 4H, J=9 Hz), 7.64 (m, 4H), 7.78 (m, 2H), 8.00 (m, 4H), 8.40 (d, 2H, J=8 Hz); MS (FAB+) m/e 591 (M+H)+ ; (FAB-) 589 (M-H)-. Anal. Calc'd. for C37H31N2 O4Na.0.25 H2O:C, 74.67; H, 5.34; N, 4.71; Found: C, 74.57; H, 5.32; N, 4.52.

reactant | methanol | 10 mL | CO | CH4O
reactant | 4,4-bis (4-(2-quinolylmethoxy)phenyl)pentanoic acid | 0.56 mmol, 320 mg | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(CCC(=O)O)(C)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C37H32N2O4
reactant | sodium hydroxide | 0.55 mmol, 1N, 0.55 ml | [OH-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4,4-bis(4-(2-quinolylmethoxy)phenyl)pentanoic acid sodium salt | [Na+].N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(CCC(=O)[O-])(C)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | InChI=1S/C37H32N2O4.Na/c1-37(23-22-36(40)41,28-12-18-32(19-13-28)42-24-30-16-10-26-6-2-4-8-34(26)38-30)29-14-20-33(21-15-29)43-25-31-17-11-27-7-3-5-9-35(27)39-31;/h2-21H,22-25H2,1H3,(H,40,41);/q;+1/p-1
